US04808762
A stirred suspension of 0.1 gram (0.0044 mole) of sodium hydride in 5 mL of tetrahydrofuran was cooled to 0° C., and a solution of 0.8 gram (0.0041 mole) of 2-cyclopropyl-2-(4-chlorophenyl)ethanol in 2.5 mL of tetrahydrofuran was added via syringe during a two minute period. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature where it stirred for 30 minutes and then was heated to 55° C. where it stirred for 1.5 hours. The reaction mixture was cooled to ambient temperature, and a solution of 1.0 gram (0.0043 mole) of (4-fluoro-3-phenoxyphenyl)methyl chloride in 2.5 mL of tetrahydrofuran was added via syringe. Upon completion of addition, the reaction mixture stirred at ambient temperature for 20 hours and then was warmed to 60° C. where it stirred for 30 minutes. The reaction mixture was cooled, and 15 mL of water was added. The aqueous layer was removed and extracted with three 25 mL portions of hexanes. The organic materials were combined and dried with magnesium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure to a residual oil. The oil was purified by rotating disk thin layer chromatography using 5-10% ethyl acetate in hexanes for elution. The appropriate fractions were combined and concentrated under reduced pressure, yielding 0.65 gram of (4-fluoro3-phenoxyphenyl)methyl 2-cyclopropyl-2-(4-chlorophenyl)ethyl ether. The nmr and the ir spectra were consistent with the proposed structure.

reactant | sodium hydride | 0.0044 mole, 0.1 gram | [H-].[Na+]
reactant | 2-cyclopropyl-2-(4-chlorophenyl)ethanol | 0.0041 mole, 0.8 gram | C1(CC1)C(CO)C1=CC=C(C=C1)Cl | C11H13ClO
reactant | (4-fluoro-3-phenoxyphenyl)methyl chloride | 0.0043 mole, 1.0 gram | FC1=C(C=C(C=C1)CCl)OC1=CC=CC=C1 | C13H10ClFO
reactant | water | 15 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | (4-fluoro3-phenoxyphenyl)methyl 2-cyclopropyl-2-(4-chlorophenyl)ethyl ether | 0.65 gram | C1(CC1)C(COCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)C1=CC=C(C=C1)Cl | C24H22ClFO2
